US04046894
5,5-Diphenylhydantoin sodium (27.5 g) was suspended in 250 ml of dimethylformamide. To the suspension was added 15 ml of chloromethylbenzylether with good stirring and the mixture was stirred at room temperature overnight. The reaction mixture was then poured into 1 liter of ice cold water and stirred for one hour. The solid product was removed by filtration and dissolved in 150 ml of hot ethanol. To the boiling solution 1 g of activated carbon was added and the hot solution was filtered through a Buchner funnel which contained a compacted layer of finely-divided diatomaceous silica. The cake was washed three times with 10 ml of ethanol and the hot solution together with the washings was allowed to cool to room temperature. The resulting crystals were filtered and recrystallized two more times in the same manner as described for the first crystallization. There was obtained 13.1 g of 3-benzyloxymethyl-5,5-diphenylhydantoin, m.p. 151°-152°.

reactant | 5,5-Diphenylhydantoin sodium | 27.5 g | [Na].C1(=CC=CC=C1)C1(C(NC(N1)=O)=O)C1=CC=CC=C1
reactant | chloromethylbenzylether | 15 ml | ClCOCC1=CC=CC=C1 | C8H9ClO
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 3-benzyloxymethyl-5,5-diphenylhydantoin | 13.1 g | C(C1=CC=CC=C1)OCN1C(NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H20N2O3
